US05047540
(136) Preparation of 2-cyanomethyl-3-hexadecyloxypropyl benzoate n3'
A mixture of 13.845 g (27.9 mM) of 2-bromomethyl-3-n-hexadecyloxypropyl benzoate n3 and 1.439 g (27.9 mM) of sodium cyanide (95% purity) in 150 ml of dimethylsulfoxide is heated at 90° C. for 1 hour. Theproduct is isolated by ethyl acetate extraction. The ethyl acetate layer is washed with water (four times) and saturated aqueous sodium chloride, dried over anhydrous magnesium sulfate and evaporated to obtain 12.42 g of the crude product of the titled compound n3'.

reactant | 2-bromomethyl-3-n-hexadecyloxypropyl benzoate | 27.9 mM, 13.845 g | C(C1=CC=CC=C1)(=O)OCC(COCCCCCCCCCCCCCCCC)CBr | C27H45BrO3
reactant | sodium cyanide | 27.9 mM, 1.439 g | [C-]#N.[Na+]
reactant | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | dimethylsulfoxide | 150 ml | CS(=O)C | C2H6OS
product | 2-cyanomethyl-3-hexadecyloxypropyl benzoate | 12.42 g | C(C1=CC=CC=C1)(=O)OCC(COCCCCCCCCCCCCCCCC)CC#N | C28H45NO3
